US07071182B2
N-[1-(3-oxopropyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide
A mixture of N-[1-(3,3-dimethoxypropyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide (500 mg, 1.12 mmol) and 2N aqueous HCl (2.5 mL) in acetone (5 mL) was heated to 50 C for 3 hours, cooled to room temperature and concentrated under reduced pressure to a volume of ˜2 mL. Diethyl ether (15 mL) was added with stirring and the mixture was filtered. The filtered solid was washed with additional diethyl ether (10 mL) and air-dried to provide the title compound. MS (ESI) 398 (M−H)−.

reactant | N-[1-(3,3-dimethoxypropyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide | 1.12 mmol, 500 mg | COC(CCN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC | C26H27N3O4
reactant | HCl | 2N, 2.5 mL | Cl | ClH
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | N-[1-(3-oxopropyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide | O=CCCN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C24H21N3O3
